US07547710B2
To a solution of 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylic acid (4.48 g, 10 mmol) in tetrahydrofuran (50 ml) were added dropwise ethyl chlorocarbonate (1.6 ml, 15-mmol) and N-methylmorpholine (1.6 ml, 15 mmol) at 0° C., and after the completion of the dropwise addition, the mixture was stirred at 0° C. for 10 min. Sodium tetrahydroborate (1.32 g, 35 mmol) and methanol (10 ml) were added to the reaction mixture and the mixture was stirred at room temperature for 6 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from tetrahydrofuran-diisopropyl ether to give tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (2.42 g, yield 55%) as white crystals.

reactant | 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylic acid | 10 mmol, 4.48 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)O)CC(C)C | C27H32N2O4
reactant | ethyl chlorocarbonate | 15-mmol, 1.6 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-methylmorpholine | 15 mmol, 1.6 ml | CN1CCOCC1 | C5H11NO
reactant | Sodium tetrahydroborate | 35 mmol, 1.32 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 2.42 g, yield 55% | OCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C27H34N2O3
